US09120777B2
B) Methyl 4′-fluoro-3-isopropoxybiphenyl-4-carboxylate
A mixture of methyl 4-iodo-2-isopropoxybenzoate (7.50 g), (4-fluorophenyl)boronic acid (6.56 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (1.44 g), a 2 M aqueous sodium carbonate solution (35.1 mL), tris(dibenzylideneacetone)dipalladium(0) (1.50 g), and toluene (50 mL) was stirred at 100 C for 2 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature. Then, the organic layer was separated and passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (6.61 g).

reactant | methyl 4-iodo-2-isopropoxybenzoate | 7.50 g | IC1=CC(=C(C(=O)OC)C=C1)OC(C)C | C11H13IO3
reactant | (4-fluorophenyl)boronic acid | 6.56 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 1.44 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 35.1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.50 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 4′-fluoro-3-isopropoxybiphenyl-4-carboxylate | 6.61 g | FC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)OC(C)C | C17H17FO3
